data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_550361_0,[C:1]([C:2](/[C:3](=[N:6]\[H:10])[H:11])=[O:8])(/[N:4]=[N:5]/[H:9])=[O:7]>>[C:1]([C:2](/[N:4]=[N:5]\[H:9])=[O:8])(/[C:3](=[N:6]\[H:10])[H:11])=[O:7],38.09866250001008
MR_549619_1,[N:1](=[N:2]/[N:3]([H:5])[H:6])\[H:4]>>[N:1](/[N:2]=[N:3]/[H:5])([H:4])[H:6],34.904687499995006
MR_285907_0,[C:1]([O:5]/[C:2]([O:4][N:3]([H:7])[H:8])=[N:6]/[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:6]([C:2]([O:4][N:3]([H:7])[H:8])=[O:5])[H:9])([H:10])([H:11])[H:12],53.53767250001681
MR_440416_0,[N:1](/[N:6]=[C:3]([C:4](=[C:2](\[O:5][H:7])[H:10])\[H:12])/[H:11])([H:8])[H:9]>>[N:1]([N:6]1[C@@:2]([O:5][H:7])([H:10])[C:4]([H:12])=[C:3]1[H:11])([H:8])[H:9],38.77887250004051
MR_171273_0,[C:1]([C:5]([C:2]([H:14])([H:15])[H:16])[C:4]([C:3]([O:7][H:9])=[O:8])[N:6]([H:10])[H:11])([H:12])([H:13])[H:17]>>[C:1]([C:5]1([C:2]([H:14])([H:15])[H:16])[C:4]([N:6]([H:10])[H:11])=[C:3]([O:7][H:9])[O:8]1)([H:12])([H:13])[H:17],57.71117500000216
MR_690540_0,[C:1]([C:3]([N:5]([H:12])[H:13])([O:6][C:2]([H:14])([H:15])[H:16])[O:8][H:9])([N:4]([H:10])[H:11])=[O:7]>>[C:1]([C:3]([N:5]([H:12])[H:13])=[O:8])([N:4]([H:10])[H:11])([O:6][C:2]([H:14])([H:15])[H:16])[O:7][H:9],37.215769999992006
MR_692640_0,[C:1]1([C:2]([H:11])([H:12])[H:13])([N:4]([C:5]([C:3]([H:14])([H:15])[H:16])=[C:7]([H:17])[H:18])[H:9])[C:6]([H:10])=[N:8]1>>[C:1]1([C:2]([H:11])([H:12])[H:13])=[N:8][C:6]1([N:4]([C:5]([C:3]([H:14])([H:15])[H:16])=[C:7]([H:17])[H:18])[H:9])[H:10],59.13748250000367
MR_87577_0,[C:1]([N:2]([H:8])[H:9])([C:3](=[C:4]([H:11])[H:12])[H:10])([O:5][H:6])[H:7]>>[C:1]1([N:2]([H:8])[H:9])([H:7])[C:3]([O:5][H:6])([H:10])[C:4]1([H:11])[H:12],61.97315499999597
MR_193670_0,[C:1]([C:2]([O:5][H:9])([H:15])[H:16])([C:3](/[N:6]=[N:7]/[H:13])=[N:8]\[H:14])([N:4]([H:11])[H:12])[H:10]>>[C:1](/[C:3]([N:6]([C:2]([O:5][H:9])([H:15])[H:16])[N:7]([H:11])[H:13])=[N:8]\[H:14])(=[N:4]\[H:12])[H:10],64.85777250000737
MR_327409_0,[C@@:1]1([O:7][H:11])([H:12])[C:3]([H:14])([H:15])[C@@:2]([C:4]([O:6][H:10])=[O:8])([H:13])[C:5]1=[O:9]>>[C@:1]1([O:7][H:11])([H:12])[C@:2]([C:5]([C:4]([O:6][H:10])=[O:8])=[O:9])([H:13])[C:3]1([H:14])[H:15],71.5757874999889
MR_566876_0,[C:1]1([H:9])([H:10])/[C:3](=[N:7]/[H:8])[O:6][C:4]([C:2]([H:12])([H:13])[H:14])=[C:5]1[H:11]>>[C:1]1([H:9])([H:10])/[C:3](=[N:7]/[H:8])[C:5]1([C:4]([C:2]([H:12])([H:13])[H:14])=[O:6])[H:11],50.76851500001709
MR_665328_1,[C:1]1([C:4]([H:14])([H:17])[H:18])([C:5]([H:15])([H:16])[H:19])[C:2]([N:7]([H:10])[H:11])([H:9])[N:6]([H:8])[C:3]1([H:12])[H:13]>>[C:1](/[C:2](=[N:7]/[H:11])[H:9])([C:3]([N:6]([H:8])[H:10])([H:12])[H:13])([C:4]([H:14])([H:17])[H:18])[C:5]([H:15])([H:16])[H:19],53.67446750002813
MR_56173_0,[C:1]([N:3](/[C:4]([C:2]([H:12])([H:13])[H:14])=[N:6]/[O:5][H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1](/[N:3]=[C:4](\[C:2]([H:12])([H:13])[H:14])[N:6]([O:5][H:7])[H:8])([H:9])([H:10])[H:11],39.9786524999719
MR_45660_0,[C:1]1([C:3]([H:15])([H:16])[H:17])([H:9])[C:5]([N:4]([C:2]([H:12])([H:13])[H:14])[H:8])([N:6]([H:10])[H:11])[O:7]1>>[C:1]([C:3]([H:15])([H:16])[H:17])([N:4]([C:2]([H:12])([H:13])[H:14])[H:8])([C:5]([N:6]([H:10])[H:11])=[O:7])[H:9],49.8768375000212
MR_582096_1,[C:1]([C:3](/[C:5](=[N:7]\[C:4](=[O:8])[H:9])[H:10])=[C:6](/[C:2]([H:15])([H:16])[H:17])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:3]1([C:6]([C:2]([H:15])([H:16])[H:17])([C:4](=[O:8])[H:9])[H:11])[C:5]([H:10])=[N:7]1)([H:12])([H:13])[H:14],71.5017424999975
MR_229570_0,[C:1](/[N:8]=[C:4](/[N:3]([C:5]([C:2]([H:16])([H:17])[H:18])=[O:9])[N:6]([H:11])[H:12])[O:7][H:10])([H:13])([H:14])[H:15]>>[C:1]([N:8](/[C:4](=[N:3]/[N:6]([H:11])[H:12])[O:7][H:10])[C:5]([C:2]([H:16])([H:17])[H:18])=[O:9])([H:13])([H:14])[H:15],25.998580000026976
MR_293756_1,[C:1]1([C:4]([H:16])([H:17])[H:18])([H:10])[C:2]([H:11])([H:12])[C:9]([C:6]([H:22])([H:23])[H:24])=[C:8]([C:5]([H:19])([H:20])[H:21])[N:7]1[C:3]([H:13])([H:14])[H:15]>>[C:1]1([C:4]([H:16])([H:17])[H:18])([H:10])[C:2]([H:11])([H:12])[C:9]1([C:6]([H:22])([H:23])[H:24])/[C:8]([C:5]([H:19])([H:20])[H:21])=[N:7]/[C:3]([H:13])([H:14])[H:15],68.40063750005115
MR_97904_1,[C:1]([C:4]([C:2]([H:15])([H:16])[H:18])=[C:3]([N:5]([H:9])[H:10])[O:7]/[C:6](=[N:8]/[H:11])[H:12])([H:13])([H:14])[H:17]>>[C:1]([C:4]([C:2]([H:15])([H:16])[H:18])([C:3]([N:5]([H:9])[H:10])=[O:7])/[C:6](=[N:8]/[H:11])[H:12])([H:13])([H:14])[H:17],48.121719999993786
MR_660896_0,[C:1]([C:2]([C:4]([H:17])([H:18])[H:19])=[O:7])([C:3]([H:14])([H:15])[H:16])([N:5]([H:11])[H:12])[C:6]([O:8][H:9])([H:10])[H:13]>>[C:1]([C:2]([C:4]([H:17])([H:18])[H:19])([O:7][H:9])[H:10])([C:3]([H:14])([H:15])[H:16])([N:5]([H:11])[H:12])[C:6](=[O:8])[H:13],57.33718500001899
MR_519237_2,[C:1]1([H:12])([H:13])[N:2]([H:9])[C:3]([O:7][H:8])=[C:4]([N:5]([H:10])[H:11])[O:6]1>>[C:1]1([H:12])([H:13])[C:4](/[C:3](=[N:2]/[H:9])[O:7][H:8])([N:5]([H:10])[H:11])[O:6]1,49.741925000005125
